US04563448
3.3 g (0.01 mol) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid in 50 ml of dimethylformamide are heated at 90° C. with 2.5 g (0.015 mole) of ethyl bromoacetate, 1.2 g (0.02 mole) of triethylamine and 2.5 g of potassium iodide for 5 hours. The reaction mixture is poured into 30 ml of water and the precipitate is filtered off with suction, washed with water and recrystallized from methanol. 2.5 g of 1-cyclopropyl-6-fluoro-7-[4-(ethoxycarbonylmethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 192° to 194° C. are obtained.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 0.01 mol, 3.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | ethyl bromoacetate | 0.015 mole, 2.5 g | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 0.02 mole, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | 2.5 g | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 1-cyclopropyl-6-fluoro-7-[4-(ethoxycarbonylmethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC(=O)OCC)F)=O)C(=O)O | C21H24FN3O5
